US04771064
N-(4-Carboxybenzyl)-(2-naphthoxy)acetamide
(2-Naphthoxy)acetic acid (8.5 g) is suspended in 160 mL methylene chloride and treated with 1,1'-carbonyldiimidazole (6.8 g) which is added in small portions. After stirring for 3 hrs at room temperature under a nitrogen atmosphere, the mixture is added dropwise to a previously prepared solution of alphaamino-p-toluic acid (1.4 g), chlorotrimethylsilane (10 mL), and triethylamine (11 mL) in 250 mL methylene chloride at 0° C. The final mixture is stirred at room temperature under a nitrogen atmosphere overnight. The mixture is combined with 200 mL 1N HCl and shaken, after which the resultant precipitate is collected by suction filtration. The precipitate is recrystallized from methanol/2N HCl, m.p. 188°-189° C. as N-(4-carboxybenzyl)-(2-naphthoxy)acetamide.

reactant | (2-Naphthoxy)acetic acid | 8.5 g | C1=C(C=CC2=CC=CC=C12)OCC(=O)O | C12H10O3
reactant | 1,1'-carbonyldiimidazole | 6.8 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | alphaamino-p-toluic acid | 1.4 g | NCC1=CC=C(C=C1)C(=O)O | C8H9NO2
reactant | chlorotrimethylsilane | 10 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | HCl | 1N, 200 mL | Cl | ClH
solvent | methylene chloride | 160 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 11 mL | C(C)N(CC)CC | C6H15N
product | N-(4-Carboxybenzyl)-(2-naphthoxy)acetamide | C(=O)(O)C1=CC=C(CNC(COC2=CC3=CC=CC=C3C=C2)=O)C=C1 | C20H17NO4
